US06713471B1
2-Methyl-1-pentyl methanesulfonate.
The title compound was prepared by following the general procedure of Example 43 for mesylation as a colorless oil (856 mg, 89%) from 2-methyl-1-pentanol (497 mg, 4.90 mmol) and methanesulfonyl chloride (821 mg, 7.30 mmol). 1H NMR (CDCl3, 300 MHz) δ0.89-0.93 (m, 3H), 0.98 (d, 3H, J=6.6 Hz), 1.15-1.43 (m, 4H), 1.88-1.90 (m, 1H), 3.00 (s, 3H), 3.98-4.11 (m, 2H) ppm.

reactant | 2-methyl-1-pentanol | 4.90 mmol, 497 mg | CC(CO)CCC | C6H14O
reactant | methanesulfonyl chloride | 7.30 mmol, 821 mg | CS(=O)(=O)Cl | CH3ClO2S
product | 2-Methyl-1-pentyl methanesulfonate | CS(=O)(=O)OCC(CCC)C | C7H16O3S
